US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(6-methoxy-naphthalen-2-yl)-pyrimidin-4-ylamine
The title compound, MS: m/e=425.0 (M+H+), was prepared from 6-methoxy-naphthalene-2-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 6-methoxy-naphthalene-2-carboxamidine | COC=1C=C2C=CC(=CC2=CC1)C(=N)N | C12H12N2O
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(6-methoxy-naphthalen-2-yl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC2=CC=C(C=C2C=C1)OC)N | C22H18Cl2N4O
